### PR TITLE
feat: Laplace-Runge-Lenz vector

### PR DESCRIPTION
**Pull request by gloges**
Refactors `positionOperator` using new `SchwartzMap.smulLeftCLM` and adds...

1. Definition of regularized radius operators, `r(ε)ˢ` which map `ψ` to `(‖x‖² + ε²) ^ (s/2) ψ`.
2. Definition of regularized d-dim hydrogen Hamiltonian operator and corresponding LRL vector operator, both making use of `r(ε)⁻¹`.
3. Commutators of LRL vector operator with itself, angular momentum and Hamiltonian.
4. The relation `A² = 2mH(L² + (ℏ(d-1)/2)²) + m²k² + ε²(...)`.

The LRL file is long but mostly consists of private lemmas to split up the straightforward yet tedious calculations for the commutators and square of LRL vector.

### CODE REVIEW

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 1]
```diff
@@ -23,4 +22,12 @@ def kronecker_delta [Ring R] (i j : Fin d) : R := if (i = j) then 1 else 0
 @[inherit_doc kronecker_delta]
 macro "δ[" i:term "," j:term "]" : term => `(kronecker_delta $i $j)
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/KroneckerDelta.lean]: can we rename `kronecker_delta` to `kroneckerDelta`.

File: PhysLean/QuantumMechanics/DDimensions/Hydrogen/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,58 @@
...
+a mass `m > 0` and constant `k` appearing in the potential `V = -k/r`.
+The standard hydrogen atom has `d=3`, `m = mₑmₚ/(mₑ + mₚ) ≈ mₑ` and `k = e²/4πε₀`.
+
+The potential `V = -k/r` is singular at the origin. To address this we define a regularized
+Hamiltonian in which the potential is replaced by `-k(r(ε)⁻¹ + ½ε²r(ε)⁻³)`, where
+`r(ε)² = ‖x‖² + ε²`. The `ε²/r³` term limits to the zero distribution for `ε → 0`
+but is convenient to include for two reasons:
+- It improves the convergence: `r(ε)⁻¹ + ½ε²r(ε)⁻³ = r⁻¹(1 + O(ε⁴/r⁴))` with no `O(ε²/r²)` term.
+- It is what appears in the commutators of the (regularized) LRL vector components.
+
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Hydrogen/Basic.lean:24]: Is there a reference for the regularized hamiltonian we could put here?

File: PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean [hunk 3]
```diff
@@ -0,0 +1,793 @@
...
+- Organize the sixteen terms which result from expanding `⁅f1ᵢ-f2ᵢ+f3ᵢ-f4ᵢ, f1ⱼ-f2ⱼ+f3ⱼ-f4ⱼ⁆`
+  into four diagonal terms such as `⁅f1ᵢ, f1ⱼ⁆` and six off-diagonal pairs such as
+  `⁅f1ᵢ, f3ⱼ⁆ + ⁅f3ᵢ, f1ⱼ⁆ = ⁅f1ᵢ, f3ⱼ⁆ - ⁅f1ⱼ, f3ᵢ⁆`.
+- Compute the diagonal commutators and off-diagonal pairs individually. Many vanish, and those
+  that don't are all of the form `iℏ (⋯) 𝐋ᵢⱼ` (as they must to be antisymmetric in `i,j`).
+- Collect terms.
+
+-/
+
+private def xp := ∑ i : Fin H.d, 𝐱[i] ∘L 𝐩[i]
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean]: could we give these more descriptive names, e.g. positionDotMomentum, and doc-strings? Same with `f1`, `f2` etc below.

File: PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean [hunk 4]
```diff
@@ -0,0 +1,793 @@
...
+To compute `𝐀(ε)²` we take the following approach:
+- Write `𝐀(ε)ᵢ = 𝐋ᵢⱼ𝐩ⱼ + ½iℏ(d-1)𝐩ᵢ - mk·𝐫(ε)⁻¹𝐱ᵢ` for the first term and
+  `𝐀(ε)ᵢ = 𝐩ⱼ𝐋ᵢⱼ - ½iℏ(d-1)𝐩ᵢ - mk·𝐫(ε)⁻¹𝐱ᵢ` for the second.
+- Expand out to nine terms: one is a triple sum, two are double sums and the rest are single sums.
+- Compute each term, symmetrizing the sums (see `sum_symmetrize` and `sum_symmetrize'`).
+- Collect terms.
+
+-/
+
+private lemma lrlOperator_eq' (i : Fin H.d) : H.lrlOperator ε i = ∑ j, 𝐋[i,j] ∘L 𝐩[j]
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean]: could these be moved up to closer to the definition of the lrlOperator, also I don't see a reason why these should be private.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Commutation.lean [hunk 5]
```diff
@@ -31,6 +31,14 @@ lemma lie_leibniz_right {d : ℕ} (A B C : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Spa
   dsimp only [Bracket.bracket]
   simp only [ContinuousLinearMap.mul_def, comp_assoc, comp_sub, sub_comp, sub_add_sub_cancel']
 
+lemma commute (A B : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Space d, ℂ)) : A ∘L B = B ∘L A + ⁅A, B⁆ := by
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Commutation.lean]: maybe `comp_eq_comp_add_commute`

File: PhysLean/QuantumMechanics/DDimensions/Operators/Commutation.lean [hunk 6]
```diff
@@ -31,6 +31,14 @@ lemma lie_leibniz_right {d : ℕ} (A B C : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Spa
...
+  dsimp only [Bracket.bracket]
+  simp only [ContinuousLinearMap.mul_def, add_sub_cancel]
+
+lemma commute' (A B : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Space d, ℂ)) : A ∘L B = B ∘L A - ⁅B, A⁆ := by
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Commutation.lean]: `comp_eq_comp_sub_commute`

File: PhysLean/QuantumMechanics/DDimensions/Operators/Commutation.lean [hunk 7]
```diff
@@ -43,6 +51,29 @@ lemma position_commutation_position {d : ℕ} (i j : Fin d) : ⁅𝐱[i], 𝐱[j
     ContinuousLinearMap.zero_apply, SchwartzMap.zero_apply, positionOperator_apply]
   ring
 
+lemma position_position_eq {d : ℕ} (i j : Fin d) : 𝐱[i] ∘L 𝐱[j] = 𝐱[j] ∘L 𝐱[i] := by
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Commutation.lean]: `position_comp_commute`? (Less sure about this one)

File: PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean [hunk 8]
```diff
@@ -6,204 +6,131 @@ Authors: Gregory J. Loges
...
+## Radius operator
+
+
+
+-/
 
-lemma positionOperator_apply {d : ℕ} (i : Fin d) (ψ : 𝓢(Space d, ℂ)) (x : Space d) :
-    𝐱[i] ψ x = x i * ψ x := rfl
+/-- Power of regularized norm, `(‖x‖² + ε²)^(s/2)` -/
+private def normRegularizedPow (ε s : ℝ) : Space d → ℝ :=
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean:54]: We have a file in `SpaceTime` in `./Space/Norm.lean` that does something similar to this, although uses a different regularization. I think the regularization you have here is probably better, and maybe it is worth combining some of the results here and there.

**Comment by gloges** [comment]
Thanks for the feedback; I've made improvements to the def/lemma names and organization.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean (hunk 8 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean:54]: I've left a TODO to revisit this. I see some pros and cons to both, e.g. 0 < ε is needed repeatedly and continuous ε vs discrete n.

File: PhysLean/QuantumMechanics/DDimensions/Hydrogen/Basic.lean (hunk 2 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Hydrogen/Basic.lean:24]: I have not been able to find one, but will continue searching.

**Comment by jstoobysmith** [comment]
This looks good to me! Though I want to take another quick Look tomorrow before approving it - sorry, I ran out of time today.

**Review by jstoobysmith — APPROVED** [review]
Approved - many thanks. Will merge shortly
